### PR TITLE
Add converse Gibbs' inequality

### PR DESCRIPTION
**Pull request by LorenzoLuccioli**
- add `rnDeriv_le_one_iff_le` and `rnDeriv_eq_one_iff_eq`
- finish proof of `kl_eq_zero_iff`

### CODE REVIEW

File: TestingLowerBounds/KullbackLeibler.lean [hunk 1]
```diff
@@ -209,22 +209,36 @@ lemma kl_nonneg' (μ ν : Measure α) [IsFiniteMeasure μ] [IsFiniteMeasure ν]
...
-    by_cases h_int : Integrable (llr μ ν) μ
-    swap; · rw [kl_of_not_integrable h_int] at h; simp_all only [EReal.top_ne_zero]
-    sorry -- TODO : decide what proof strategy to use here, maybe we could use the fact that
-    -- jensen's inequality is an equality iff the function is constant a.e., but I don't know whether
-    -- this is in mathlib
-  · exact h ▸ kl_self ν
+/-- **Converse Gibbs' inequality**: the Kullback-Leibler divergence between two probability
+distributions is zero if and only if the two distributions are equal. -/
+lemma kl_eq_zero_iff [IsFiniteMeasure μ] [IsFiniteMeasure ν] (h_mass : μ Set.univ = ν Set.univ) :
+    kl μ ν = 0 ↔ μ = ν := by
```
Comment (RemyDegenne) [inline TestingLowerBounds/KullbackLeibler.lean]: Please add a version of this for two probability measures.

**Review by RemyDegenne — COMMENTED** [review]
Great!
Can you update the blueprint as well?

**Comment by RemyDegenne** [comment]
I just realized that this is only for KL. Could you prove it for any f-divergence with strongly convex f and `f 1 = 0`?

**Review by RemyDegenne — APPROVED** [review]
